US09302998B2
STEP D: tert-butyl 1-(2,4-dihydroxy-5-isopropylphenyl)-1H-1,2,3-triazol-5-yl(4-morpholinobenzyl)carbamate
A mixture of Pd(OH)2/C (0.02 mmol), [3-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-3H-[1,2,3]triazol-4-yl]-(4-morpholin-4-yl-benzyl)-carbamic acid t-butyl ester (138 mg, 0.2 mmol) in EtOH (5 ml) was subjected to one atmosphere of H2 for 1 hour. The catalyst was filtered off through Celite® pad and ethanol was then removed under reduced pressure. The crude reaction mixture was used in the next reaction without any purification.

reactant | [3-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-3H-[1,2,3]triazol-4-yl]-(4-morpholin-4-yl-benzyl)-carbamic acid t-butyl ester | 0.2 mmol, 138 mg | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)N1CCOCC1)C=1N(N=NC1)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C41H47N5O5
solvent | EtOH | 5 ml | CCO | C2H6O
catalyst | Pd(OH)2/C | 0.02 mmol | [OH-].[OH-].[Pd+2]
product | tert-butyl 1-(2,4-dihydroxy-5-isopropylphenyl)-1H-1,2,3-triazol-5-yl(4-morpholinobenzyl)carbamate | OC1=C(C=C(C(=C1)O)C(C)C)N1N=NC=C1N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)N1CCOCC1 | C27H35N5O5
